US07285563B2
2-Bromo-6-fluorobenzaldehyde
To a solution of diisopropylamine (15.7 ml 112 mmol) in anhydrous tetrahydrofuran (200 ml) cooled to 0° C. was added dropwise n-butyllithium (2.5M in hexanes, 44.8 ml, 112 mmol). After complete addition the mixture was cooled to −78° C. and 3-fluorobromobenzene (19.6 g, 112 mmol) added over 10 minutes. The mixture stirred at −78° C. for 1 hour then N,N diimethylformamide (9.72 ml, 125 mmol) was added dropwise over 5 minutes. The mixture was stirred for a further 10 minutes, then acetic acid (10 ml) and water (350 ml) were added. The mixture was allowed to warm to room temperature and was extracted with Et2O (250+150 ml). The combined extracts were washed with water (×2) 0.2N HCl, brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography on silica eluting with 5% Et2O in iso-hexanes to give the title compound (20 g, 88%) as a white solid.

reactant | diisopropylamine | 112 mmol, 15.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 112 mmol, 2.5M, 44.8 ml | C(CCC)[Li]
reactant | 3-fluorobromobenzene | 112 mmol, 19.6 g | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 350 ml | O | H2O
product | 2-Bromo-6-fluorobenzaldehyde | 20 g, 88% | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
